US07598281B2
3-Dibenzylaminocyclohexylmethanol
At 0° C., 23 g of a 1:3.5 mixture of methyl 3-dibenzylaminocyclohexanoate and benzyl 3-dibenzylaminocyclohexanoate were added dropwise to a suspension of 4.4 g of LiAlH4 in 250 ml of diethyl ether. The suspension was stirred at 0° C. for 2 h and then quenched using 2 ml of EtOAc, and 10 ml of 10N KOH were added. 50 g of MgSO4 were then added and the suspension was filtered. The residue was digested with EtOAc for 2 h and filtered again. The filtrate was concentrated, giving the product as an oil. C21 H27NO (309.46), LCMS (ESI): 310.2 (MH+).

reactant | methyl 3-dibenzylaminocyclohexanoate | C(C1=CC=CC=C1)N(C1CC(CCC1)C(=O)OC)CC1=CC=CC=C1 | C22H27NO2
reactant | benzyl 3-dibenzylaminocyclohexanoate | C(C1=CC=CC=C1)N(C1CC(CCC1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C28H31NO2
reactant | LiAlH4 | 4.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 3-Dibenzylaminocyclohexylmethanol | C(C1=CC=CC=C1)N(C1CC(CCC1)CO)CC1=CC=CC=C1 | C21H27NO
